US06265418B1
Ethyl 4,5,6,7-tetrahydropyrrolo[3,4-c]pyridin-2-acetate.
In 2 ml of methylene chloride was dissolved 0.11 g (0.36 mmol) of ethyl 5-t-butoxycarbonyl-4,5,6,7-tetrahydropyrrolo[3,4-c]pyridin-2-acetate, and under ice-cooling, 0.4 ml of CF3CO2H was added to the residue and the mixture was stirred at room temperature for 2 hours.

reactant | ethyl 5-t-butoxycarbonyl-4,5,6,7-tetrahydropyrrolo[3,4-c]pyridin-2-acetate | 0.36 mmol, 0.11 g | C(C)(C)(C)OC(=O)N1CC=2C(CC1)=CN(C2)CC(=O)OCC | C16H24N2O4
reactant | CF3CO2H | 0.4 ml | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4,5,6,7-tetrahydropyrrolo[3,4-c]pyridin-2-acetate | C=1N(C=C2CNCCC21)CC(=O)OCC | C11H16N2O2
